US07968573B2
To a mixture of 8.71 g of 1-methyl-3-trifluoromethyl-1H-pyrazole and 130 ml of tetrahydrofuran was added dropwise 32 ml of a 2.0 mol/L lithium diisopropylamide solution in heptane/tetrahydrofuran/ethylbenzene at −78° C. The mixture of stirred at −78° C. for 2 hours and then poured into a mixture was dry ice and 50 ml of tetrahydrofuran. The mixture was stirred for 2 hours while allowing it to rise to around room temperature. Water and diethyl ether were poured into the reaction mixture. The aqueous layer was adjusted to pH 10-12 by an addition of a 2N aqueous sodium hydroxide solution, and then layers were separated. The resulting aqueous layer was washed with diethyl ether two times, adjusted to around pH 3 by an addition of 2N hydrochloric acid, and then extracted with methyl tert-butyl ether three times. The organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure to obtain 8.19 g of 1-methyl-3-trifluoromethyl-1H-pyrazole-5-carboxylic acid of the formula:

reactant | 1-methyl-3-trifluoromethyl-1H-pyrazole | 8.71 g | CN1N=C(C=C1)C(F)(F)F | C5H5F3N2
reactant | lithium diisopropylamide | 2.0 mol/L | C(C)(C)[N-]C(C)C.[Li+]
reactant | dry ice | C(=O)=O | CO2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | heptane tetrahydrofuran ethylbenzene | CCCCCCC.O1CCCC1.C(C)C1=CC=CC=C1
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | 1-methyl-3-trifluoromethyl-1H-pyrazole-5-carboxylic acid | 8.19 g | CN1N=C(C=C1C(=O)O)C(F)(F)F | C6H5F3N2O2
